US08183239B2
2-(4-{4-[3-(3,5-Dimethyl-isoxazol-4-yl)-ureido]-2-fluoro-phenyl}-piperazin-1-yl)-N,N-diethyl-2-phenyl-acetamide
A mixture of 2-[4-(4-amino-2-fluoro-phenyl)-piperazin-1-yl]-N,N-diethyl-2-phenyl-acetamide (0.30 mmol) and 4-isocyanato-3,5-dimethyl-isoxazole (1.0 mmol) in DCE (10 mL) was stirred at rt for 16 h. The solid that had formed was collected by filtration and dried under vacuum to give the title compound (100 mg, 64%). MS (ESI): mass calcd. for C28H35FN6O3, 522.28. m/z found, 523.4 [M+H]+. 1H NMR (CDCl3): 8.60-8.40 (br s, 1H), 7.60-7.25 (m, 6H), 6.78-6.71 (m, 1H), 6.68-6.57 (m, 1H), 4.21 (s, 1H), 3.60-3.40 (m, 2H), 3.39-3.15 (m, 2H), 2.95-2.45 (m, 8H), 2.24 (s, 3H), 2.13 (s, 3H), 1.11 (t, J=7.1, 3H), 1.05 (t, J=7.1, 3H).

reactant | 2-[4-(4-amino-2-fluoro-phenyl)-piperazin-1-yl]-N,N-diethyl-2-phenyl-acetamide | 0.30 mmol | NC1=CC(=C(C=C1)N1CCN(CC1)C(C(=O)N(CC)CC)C1=CC=CC=C1)F | C22H29FN4O
reactant | 4-isocyanato-3,5-dimethyl-isoxazole | 1.0 mmol | N(=C=O)C=1C(=NOC1C)C | C6H6N2O2
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | 2-(4-{4-[3-(3,5-Dimethyl-isoxazol-4-yl)-ureido]-2-fluoro-phenyl}-piperazin-1-yl)-N,N-diethyl-2-phenyl-acetamide | 100 mg, 64% | CC1=NOC(=C1NC(NC1=CC(=C(C=C1)N1CCN(CC1)C(C(=O)N(CC)CC)C1=CC=CC=C1)F)=O)C | C28H35FN6O3
